US04064261
3-Bromo-s-triazolo(3,4-b)benzothiazole
s-Triazolo(3,4-b)benzothiazole (6.4 grams; 0.0366 mole) was slurried with 200 milliliters of carbon tetrachloride, with stirring, at room temperature, and then heated. N-Bromosuccinimide (6.8 grams; 0.0366 mole plus 5 percent) was added and the solution refluxed and a pinch of azobisisobutylnitrile added to initiate the reaction. Subsequently the reaction mixture was filtered to separate blackish crystals, which were washed with carbon tetrachloride. The carbon tetrachloride was removed by evaporation, to yield a purple solid. This was chromatographed on a column packed with silica gel and eluted with ethyl acetate. The second portion was analyzed by elemental analysis and NMR, which confirmed its identity as the expected 3-bromo-s-triazolo(3,4-b)benzothiazole, m.p., 166°-7° C.

reactant | s-Triazolo(3,4-b)benzothiazole | 0.0366 mole, 6.4 grams | N=1N=CN2C1SC1=C2C=CC=C1 | C8H5N3S
reactant | N-Bromosuccinimide | 0.0366 mole, 6.8 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 milliliters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-s-triazolo(3,4-b)benzothiazole | BrC1=NN=C2SC3=C(N21)C=CC=C3 | C8H4BrN3S
